US08026234B2
Compound 125: 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-isopropylazetidin-3-yl)-3-methoxybenzamide
The title compound was synthesized by solubilizing N-(azetidin-3-yl)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzamide (33 mg, 0.07 mmol) in acetic acid: methanol: dichloromethane (1 mL of 1:2:2) and treatment with acetone (58 mg, 1.0 mmol), and borane-pyridine (100 μL, 0.8 mmol). The reaction was left to stir for 3 hours. The reaction solvent was removed and the final compound was purified by reverse phase HPLC and basified to give the free base (5.7 mg, 16% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.87 (d, J=6.06 Hz, 6H) 1.48-1.78 (m, 8H) 1.93 (br. s., 2H) 2.24-2.36 (m, 1H) 2.94 (t, J=6.82 Hz, 2H) 3.33 (s, 3H) 3.51 (t, J=6.82 Hz, 2H) 3.94 (s, 3H) 4.05 (t, J=14.02 Hz, 2H) 4.39 (q, J=6.99 Hz, 1H) 4.70-4.83 (m, 1H) 7.49 (d, 0H) 7.51 (s, 1H) 7.98 (s, 1H) 8.26 (s, 1H) 8.29 (d, 1H) 8.61 (d, J=6.82 Hz, 1H). [M+H] calculated for C28H37F2N7O3, 574. found 574.

reactant | N-(azetidin-3-yl)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzamide | 0.07 mmol, 33 mg | N1CC(C1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCCC2)N1)OC)=O | C25H31F2N7O3
reactant | methanol | CO | CH4O
reactant | acetone | 1.0 mmol, 58 mg | CC(=O)C | C3H6O
reactant | borane-pyridine | 0.8 mmol, 100 μL | N1=CC=CC=C1.B
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-isopropylazetidin-3-yl)-3-methoxybenzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CN(C1)C(C)C)C=C2)OC | C28H37F2N7O3
